US07763401B2
Acid Black 24;
Acid Blue 7, 23, 25, 29, 62, 83, 86, 87, 90, 92, 108, 138, 158, 249; Acid Green 3, 5, 9, 16, 25, 27, 50; Acid Orange 8, 51, 56, 63, 74; Acid Red 1, 4, 8, 34, 37, 42, 52, 57, 80, 97, 114, 143, 145, 151, 183, 217; Acid Violet 7; Acid Yellow 17, 23, 25, 29, 34, 40, 42, 72, 76, 99, 111, 112, 114, 116, 169, 243, and derivatives of these dyes are preferable.

reactant | Acid Blue 7 | CCN(CC1=CC=CC=C1)C2=CC=C(C=C2)C(=C3C=CC(=[N+](CC)CC4=CC=CC=C4)C=C3)C5=C(C=C(C=C5)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | Acid Green 3 | CCN(CC1=CC(=CC=C1)S(=O)(=O)[O-])C2=CC=C(C=C2)C(=C3C=CC(=[N+](CC)CC4=CC(=CC=C4)S(=O)(=O)[O-])C=C3)C5=CC=CC=C5.[Na+]
reactant | Acid Orange 8 | CC1=C(C=CC(=C1)S(=O)(=O)[O-])N/N=C/2\C(=O)C=CC3=CC=CC=C32.[Na+]
reactant | Acid Red 1 | CC(=O)NC1=C2C(=CC(=C1)S(=O)(=O)[O-])C=C(/C(=N\NC3=CC=CC=C3)/C2=O)S(=O)(=O)[O-].[Na+].[Na+]
reactant | Acid Violet 7 | CC(=O)NC1=CC=C(C=C1)N/N=C/2\C(=CC3=CC(=CC(=C3C2=O)NC(=O)C)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | Acid Yellow 17 | CC1=NN(C(=O)C1N=NC2=CC=C(C=C2)S(=O)(=O)[O-])C3=CC(=C(C=C3Cl)S(=O)(=O)[O-])Cl.[Na+].[Na+]
product | Acid Black 24 | C1=CC=C(C=C1)NC2=C3C(=C(C=C2)N=NC4=CC=C(C5=CC=CC=C54)N=NC6=CC=CC7=C6C=CC=C7S(=O)(=O)[O-])C=CC=C3S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C36H25N5O6S2.2Na/c42-48(43,44)34-17-7-13-26-27(34)14-6-16-29(26)38-39-30-19-20-31(25-12-5-4-11-24(25)30)40-41-32-21-22-33(37-23-9-2-1-3-10-23)36-28(32)15-8-18-35(36)49(45,46)47;;/h1-22,37H,(H,42,43,44)(H,45,46,47);;/q;2*+1/p-2
